US08563617B2
248.2 7-(Azetidin-1-yl)-8-benzyl-5,6,7,8-tetrahydronaphthalene-2-carbonitrile
7-Amino-8-benzyl-5,6,7,8-tetrahydronaphthalene-2-carbonitrile (790 mg, 3.03 mmol), 1,3-dibromopropane (0.4 mL, 3.93 mmol) and triethylamine (0.914 mL, 6.56 mmol) were dissolved in acetonitrile (8 mL) and the reaction mixture heated to 120° C. in the microwave for 2 h. The solvent was evaporated in vacuo. Water (30 mL) and ethyl acetate (40 mL) were added. The layers were separated and the aqueous layer extracted with ethyl acetate. The combined organic extracts were dried (MgSO4) and the solvent evaporated in vacuo. The crude product was purified by flash chromatography (silica gel, dichloromethane, methanol). Yield: 346 mg (1.14 mmol, 37.6%).

reactant | 7-Amino-8-benzyl-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | 3.03 mmol, 790 mg | NC1CCC=2C=CC(=CC2C1CC1=CC=CC=C1)C#N | C18H18N2
reactant | 1,3-dibromopropane | 3.93 mmol, 0.4 mL | BrCCCBr | C3H6Br2
reactant | triethylamine | 6.56 mmol, 0.914 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 7-(Azetidin-1-yl)-8-benzyl-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | N1(CCC1)C1CCC=2C=CC(=CC2C1CC1=CC=CC=C1)C#N | C21H22N2
